US09376422B2
Step 4: Synthesis of 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-((4-(dimethylamino)cyclohexyl)thio)-2-methylbenzamide
To a stirred solution of 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-((4-oxocyclohexyl)thio)benzamide (0.45 g, 1.03 mmol) and dimethylamine (0.14 g, 3.11 mmol) in dichloroethane (5 mL) was added acetic acid (0.37 g, 6.16 mmol) and the mixture stirred at room temperature for 20 minutes. Then sodium triacetoxyborohydride (0.66 g, 3.11 mmol) was added at 0° C. and the mixture stirred overnight at room temperature. On completion of the reaction, the solvent was removed under reduced pressure. Water was added to the residue and extraction was performed using 5% MeOH/DCM. The combined organic layers were dried and concentrated to afford crude material which was purified by column chromatography to afford the title compound (0.016 g, 3.3%). Analytical Data: LCMS: 462.35 (M+1)+; HPLC: 89.00% (@ 210-370 nm) (Rt; 4.949; Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 7.44 (s, 1H), 7.16 (s, 1H), 6.10 (s, 1H), 4.44 (s, 2H), 3.63 (m, 1H), 3.13 (m, 1H), 2.38 (s, 3H), 2.36 (s, 3H), 2.35 (s, 3H), 2.31 (s, 3H), 2.24 (s, 3H), 1.75-2.08 (m, 8H).

reactant | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-((4-oxocyclohexyl)thio)benzamide | 1.03 mmol, 0.45 g | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)SC1CCC(CC1)=O | C22H25ClN2O3S
reactant | dimethylamine | 3.11 mmol, 0.14 g | CNC | C2H7N
reactant | acetic acid | 6.16 mmol, 0.37 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.11 mmol, 0.66 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-((4-(dimethylamino)cyclohexyl)thio)-2-methylbenzamide | 0.016 g, 3.3% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)SC1CCC(CC1)N(C)C | C24H32ClN3O2S
